US04886814
N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine
Prepared by analogy to Example 13 by reaction of 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine with 1-[4-(2-hydroxyethoxy)phenyl)propan-2-one followed by purification on a silica gel column using methylene chloride/methanol=9:1 as eluant.

reactant | 2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | OC(CN)C=1N=C(SC1)C | C6H10N2OS
reactant | 1-[4-(2-hydroxyethoxy)phenyl)propan-2-one | OCCOC1=CC=C(C=C1)CC(C)=O | C11H14O3
product | N-[2-(4-(2-Hydroxyethoxy)phenyl)-1-methylethyl]-2-hydroxy-2-(2-methyl-thiazol-4-yl)ethanamine | OCCOC1=CC=C(C=C1)CC(C)NCC(C=1N=C(SC1)C)O | C17H24N2O3S
